US05733913
6-(3,5-Dimethyl-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine
The title compound was prepared according to Example 1, starting from 2.0 g of 3,5-dimethylphenyl-acetonitrile and 1.81 g of 2,4-diamino-5-pyrimidine-carboxaldehyde; mp 298°-302° C., MS(CI).

reactant | 3,5-dimethylphenyl-acetonitrile | 2.0 g | CC=1C=C(C=C(C1)C)CC#N | C10H11N
reactant | 2,4-diamino-5-pyrimidine-carboxaldehyde | 1.81 g | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
product | 6-(3,5-Dimethyl-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine | CC=1C=C(C=C(C1)C)C1=CC2=C(N=C(N=C2)N)N=C1N | C15H15N5
